US06787536B2
2-(R)-{4-[5-(4-Chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide
Prepared according to the method for the preparation of 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide, from 2-(R)-{4-[5-(4-chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-3-methylbutyric acid (0.172 g), to give the title compound as a cream solid (0.146 g, 82%).

reactant | 2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | FC1=CC=C(C=C1)C=1C=NC(=NC1)N1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C20H26FN5O4S
reactant | 2-(R)-{4-[5-(4-chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-3-methylbutyric acid | 0.172 g | ClC1=CC=C(C=C1)C=1C=NC(=NC1)C1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)O)C(C)C | C21H26ClN3O4S
product | 2-(R)-{4-[5-(4-Chlorophenyl)pyrimidin-2-yl]piperidine-1-sulfonylmethyl}-N-hydroxy-3-methylbutyramide | 0.146 g, 82% | ClC1=CC=C(C=C1)C=1C=NC(=NC1)C1CCN(CC1)S(=O)(=O)C[C@@H](C(=O)NO)C(C)C | C21H27ClN4O4S
